US07557114B2
(c) 5-(2,2-Difluoro-vinyl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester
To a stirred solution of 4.69 mmol triphenylphosphine in 5 ml DMF at 0° C. was added dropwise a solution of 4.69 mmol dibromodifluoromethane in 1 ml DMF and the mixture was stirred at RT for 30 min. 2.35 mmol 5-formyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester was then added at 0° C. and then 4.69 mmol zinc dust was added in small portions. The mixture was stirred at RT for 16 and then concentrated in vacuo. The residue was purified by chromatography (SiO2, heptane/ethyl acetate) to yield the title compound as a white solid (31% yield). MS (m/e): 226.1 ([M+H−Me2C═CH2]+, 100%).

reactant | triphenylphosphine | 4.69 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dibromodifluoromethane | 4.69 mmol | BrC(F)(F)Br | CBr2F2
reactant | 5-formyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 2.35 mmol | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C=O | C14H17NO3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | zinc | 4.69 mmol | [Zn] | Zn
product | 5-(2,2-Difluoro-vinyl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester | 31% yield | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C=C(F)F | C15H17F2NO2
